US08648066B2
A solution of 2-[1-(dimethylamino)ethyl]-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-ol (50 mg, 0.20 mmol) in a mixture of chloroform (1.5 mL) and phosphorous oxychloride (0.5 mL) was heated to reflux for 90 minutes. After cooling to room temperature the reaction mixture was concentrated and the residue was partitioned between saturated aqueous sodium bicarbonate (20 mL) and ethyl acetate (20 mL). The mixture was stirred for 15 minutes and pH was maintained above 7 by the addition of solid sodium bicarbonate. The organic layer was separated and washed with water (10 mL) and brine, dried over sodium sulfate, filtered and concentrated to give 1-(4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)-N,N-dimethylethanamine (46 mg, 85%). MS (EI) for C14H22ClN3: 268 (MH+).

reactant | 2-[1-(dimethylamino)ethyl]-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-ol | 0.20 mmol, 50 mg | CN(C(C)C1=NC=2CCC(CC2C(=N1)O)(C)C)C | C14H23N3O
reactant | chloroform | 1.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | phosphorous oxychloride | 0.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)-N,N-dimethylethanamine | 46 mg, 85% | ClC1=NC(=NC=2CCC(CC12)(C)C)C(C)N(C)C | C14H22ClN3
